US05219871
Preparation of 2,2-diphenyl-5-[N-{2-(2,3-dihydrobenzofur-5-yl)ethyl}-N-methylamino]pentanamide
A mixture containing 2,2-diphenyl-5-methylaminopentanamide (0.3-see Preparation 3), 5-(2-bromoethyl)-2,3-dihydrobenzofuran (0.242 g-see Preparation 20), anhydrous potassium carbonate (0.4 g) and acetonitrile (10 ml) was heated under reflux for 5 hours. The mixture was concentrated in vacuo and the residue partitioned between dichloromethane (30 ml) and 10% aqueous potassium carbonate (30 ml). The layers were separated and the aqueous layer extracted with dichloromethane (3×20 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to give a gum which was purified by column chromatography on silica eluting with dichloromethane containing methanol (5% up to 10%). The product-containing fractions were combined and concentrated in vacuo to give the title compound as a gum, yield 0.26 g.

reactant | 2,2-diphenyl-5-methylaminopentanamide | C1(=CC=CC=C1)C(C(=O)N)(CCCNC)C1=CC=CC=C1 | C18H22N2O
reactant | 5-(2-bromoethyl)-2,3-dihydrobenzofuran | 0.242 g | BrCCC=1C=CC2=C(CCO2)C1 | C10H11BrO
reactant | potassium carbonate | 0.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 2,2-diphenyl-5-[N-{2-(2,3-dihydrobenzofur-5-yl)ethyl}-N-methylamino]pentanamide | C1(=CC=CC=C1)C(C(=O)N)(CCCN(C)CCC=1C=CC2=C(CCO2)C1)C1=CC=CC=C1 | C28H32N2O2
